US07247734B2
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (0.34 g, 2.4 mmol), 3-bromophenyl acetic acid (0.51 g, 2.4 mmol), BF3Et2O (5 ml), PCl5 (0.74 g, 3.6 mmol), DMF (5 ml and 10 ml). The precipitate formed was filtered and re-crystallized from methanol to give 3-(3-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one a flakey white solid (0.64 g, 76%).

reactant | 4-Chlororesorcinol | 2.4 mmol, 0.34 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | 3-bromophenyl acetic acid | 2.4 mmol, 0.51 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | PCl5 | 3.6 mmol, 0.74 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(3-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one | BrC=1C=C(C=CC1)C1=COC2=CC(=C(C=C2C1=O)Cl)O | C15H8BrClO3
